US07563800B2
A solution of 2-(2,4-difluoro-phenoxy)-4-hydrazino-pyrimidine-5-carboxylic acid ethyl ester (7.0 g) and NaOEt (21% in EtOH, 16.85 mL) in EtOH (56 mL) was heated to 55° C. for two hours. The reaction was cooled, and HOAc was added to adjust pH to around 5.0. Water was added until no more precipitation occurred, and the mixture was filtered. The precipitate was collected and dried under vacuum to give 6-(2,4-difluoro-phenoxy)-1,2-dihydro-pyrazolo[3,4-d]pyrimidin-3-one (4.7 g).

reactant | 2-(2,4-difluoro-phenoxy)-4-hydrazino-pyrimidine-5-carboxylic acid ethyl ester | 7.0 g | C(C)OC(=O)C=1C(=NC(=NC1)OC1=C(C=C(C=C1)F)F)NN | C13H12F2N4O3
reactant | NaOEt | 16.85 mL | CC[O-].[Na+]
reactant | HOAc | CC(=O)O | C2H4O2
reactant | Water | O | H2O
solvent | EtOH | 56 mL | CCO | C2H6O
product | 6-(2,4-difluoro-phenoxy)-1,2-dihydro-pyrazolo[3,4-d]pyrimidin-3-one | 4.7 g | FC1=C(OC2=NC=C3C(=N2)NNC3=O)C=CC(=C1)F | C11H6F2N4O2
